US07572820B2
4-Chloro-1-({5-[1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]-1,2,4-oxadiazol-3-yl}methyl)-2-propyl-1H-indole-5-carbonitrile
Synthesized as described in Example 32A and Example 33 using (1Z)-2-(4-chloro-5-cyano-2-propyl-1H-indol-1-yl)-N-hydroxyethanimidamide (0.030 g, 0.1 mmol) in anhydrous THF (5 mL) with propanephosphonic acid cyclic anhydride (T3P) (0.034 g, 0.12 mmol), 1-methyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid (0.0194 g, 0.1 mmol) and DIEA (0.016 g, 0.12 mmol) and stirred at rt for 1 h and then heated at 120° C. for 2 h in the microwave: 1H NMR (400 MHz, CDCl3) δ 8.07 (s, 1H), 7.88 (d, J=0.9 Hz, 1H), 7.53 (d, J=8.9 Hz, 1H), 7.45 (d, J=8.6 Hz, 1H), 5.40 (s, 2H), 4.01 (s, 3H), 2.96 (t, 2H), 1.87-1.68 (m, 2H), 1.03 (t, 3H); MS (ES) m/z 449 (M+1).

reactant | (1Z)-2-(4-chloro-5-cyano-2-propyl-1H-indol-1-yl)-N-hydroxyethanimidamide | 0.1 mmol, 0.030 g | ClC1=C2C=C(N(C2=CC=C1C#N)C/C(/NO)=N/[H])CCC | C14H15ClN4O
reactant | T3P | 0.12 mmol, 0.034 g | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | 1-methyl-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid | 0.1 mmol, 0.0194 g | CN1N=CC(=C1C(F)(F)F)C(=O)O | C6H5F3N2O2
reactant | DIEA | 0.12 mmol, 0.016 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Chloro-1-({5-[1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]-1,2,4-oxadiazol-3-yl}methyl)-2-propyl-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C=1C=NN(C1C(F)(F)F)C)CCC | C20H16ClF3N6O
